US06451821B1
0.4 g of sodium borohydride is added to a solution of 1.2 g of ethyl (2RS)-2-acetylamino-3-(5-thiazolyl)propanoate in 20 cm3 of ethanol, followed by stirring under an inert atmosphere at a temperature in the region of 20° C. After 18 hours, a further 0.1 g of sodium borohydride is added and the mixture is then stirred for 24 hours at a temperature in the region of 20° C. The reaction medium is concentrated under reduced pressure (1 kPa) at a temperature in the region of 40° C. The residue is taken up in 10 cm3 of water and extracted with 3 times 30 cm3 of ethyl acetate. The organic phase is dried over magnesium sulphate, filtered and concentrated under reduced pressure (1 kPa) at a temperature in the region of 40° C. The residue is chromatographed under an argon pressure of 60 kPa on a column of silica gel (particle size 40-63μ; diameter 3.5 cm; height 31 cm), eluting with 100 cm3 it of dichloromethane, 600 cm3 of a dichloromethane/methanol mixture (98/2 by volume), 500 cm3 of a dichloromethane/-methanol mixture (96/4 by volume) and 1 dm3 of a dichloromethane/methanol mixture (90/10 by volume). The fractions containing the expected product are combined and then concentrated under the above conditions. 0.63 g of N-[(1RS)-1-hydroxymethyl-2-(5-thiazolyl)-ethyl]acetamide is obtained in the form of a yellow oil [1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): 1.80 (s: 3H); 2.85 (dd, J=15 and 9 Hz: 1H); 3.16 (dd, J=15 and 5 Hz: 1H); from 3.25 to 3.45 (mt: 2H); 3.87 (mt: 1H); 4.85 (mt: 1H); 7.65 (s: 1H); 7.79 (d, J=8.5 Hz: 1H); 8.91 (s: 1H)].

reactant | sodium borohydride | 0.4 g | [BH4-].[Na+]
reactant | ethyl (2RS)-2-acetylamino-3-(5-thiazolyl)propanoate | 1.2 g | C(C)(=O)NC(C(=O)OCC)CC1=CN=CS1 | C10H14N2O3S
reactant | sodium borohydride | 0.1 g | [BH4-].[Na+]
solvent | ethanol | 20 cm3 | C(C)O | C2H6O
product | N-[(1RS)-1-hydroxymethyl-2-(5-thiazolyl)-ethyl]acetamide | 0.63 g | OCC(CC1=CN=CS1)NC(C)=O | C8H12N2O2S
